US09163009B2
Hydrated crystalline form 2 is prepared by sonicating a mixture of raltegravir, KOH, acetone and trace amount of water whereas anhydrous crystalline form 3 is obtained by crystallization of amorphous raltegravir potassium from ethanol.

reactant | raltegravir | CC1=NN=C(O1)C(=O)NC(C)(C)C2=NC(=C(C(=O)N2C)O)C(=O)NCC=3C=CC(=CC3)F | C20H21FN6O5
reactant | KOH | [OH-].[K+]
reactant | acetone | CC(=O)C | C3H6O
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | raltegravir potassium | CC1=NN=C(O1)C(=O)NC(C)(C)C2=NC(=C(C(=O)N2C)[O-])C(=O)NCC=3C=CC(=CC3)F.[K+] | InChI=1S/C20H21FN6O5.K/c1-10-25-26-17(32-10)16(30)24-20(2,3)19-23-13(14(28)18(31)27(19)4)15(29)22-9-11-5-7-12(21)8-6-11;/h5-8,28H,9H2,1-4H3,(H,22,29)(H,24,30);/q;+1/p-1
